US08877744B2
a) (R)-5-[2,4-Difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one
In a manner analogous to that described in Example 19a), the palladium-catalyzed coupling of (R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (intermediate D1.1) and 2-chloro-6-(trifluoromethyl)benzo[d]oxazole yielded the title compound (73% yield) as a white solid. MS (ISP): m/z=491.2 [M+H]+.

reactant | (R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | CC1(COB(OC1)C=1C(=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F)F)C | C19H24BF4NO4
reactant | 2-chloro-6-(trifluoromethyl)benzo[d]oxazole | ClC=1OC2=C(N1)C=CC(=C2)C(F)(F)F | C8H3ClF3NO
catalyst | palladium | [Pd] | Pd
product | (R)-5-[2,4-Difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 73% yield | FC1=C(C=C(C(=C1)F)C=1OC2=C(N1)C=CC(=C2)C(F)(F)F)[C@]2(NC(COC(C2(F)F)(C)C)=O)C | C22H17F7N2O3
